US07208493B2
Acetic acid 4-[7-(4-acetoxy-phenyl)-4-amino-pteridin-6-yl]-phenyl ester
662.6 mg (2.0 mmol) of 6,7-bis(4-hydroxyphenyl)-pteridin-4-ylamine was dissolved in 20 ml of trifluoroacetic acid. 1.0 mL (14.06 mmol, 7.0 eq) of acetyl chloride was added via syringe to this mixture. Upon heating to 80° C. bubbling of the reaction mixture and evolution of HCl gas was observed. The reaction mixture was heated at 80° C. for 40 min, at which point LC/MS indicated a complete conversion of the starting material to the di-acetate. Solvent was removed in vacuo to give bright-yellow oil, which upon standing solidified. 40 mL of diethyl ether was added, the solid was crushed with spatula, centrifuged down, washed with 45 mL of diethyl ether twice and dried in vacuo to give 1.034 g (97.7%) of the product as a light-yellow solid. 97.5% purity by LC/MS (230 DAD). Mass-spec [ES+]=416.5. 1H NMR (DMSO-d6) 2.280 (3H, s), 2.284 (3H, s), 7.16–7.21 (4H, dd), 7.56–7.62 (4H, dd), 8.80 (1H, s), 9.46 (1H, br.s), 9.52 (1H, br, s).

reactant | 6,7-bis(4-hydroxyphenyl)-pteridin-4-ylamine | 2.0 mmol, 662.6 mg | OC1=CC=C(C=C1)C=1N=C2C(=NC=NC2=NC1C1=CC=C(C=C1)O)N | C18H13N5O2
reactant | acetyl chloride | 14.06 mmol, 1.0 mL, 7.0 eq | C(C)(=O)Cl | C2H3ClO
reactant | diethyl ether | 40 mL | C(C)OCC | C4H10O
solvent | trifluoroacetic acid | 20 ml | FC(C(=O)O)(F)F | C2HF3O2
product | Acetic acid 4-[7-(4-acetoxy-phenyl)-4-amino-pteridin-6-yl]-phenyl ester | 1.034 g, 97.7% | C(C)(=O)OC1=CC=C(C=C1)C1=C(N=C2C(=NC=NC2=N1)N)C1=CC=C(C=C1)OC(C)=O | C22H17N5O4
